US06034093
C. [5-(2-Methoxy-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide
A mixture of [5-(2-methylsulfinyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide and [5-(2-methylsulfonyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide (0.19 g, 0.37 mmol) is dissolved in 10 mL of MeOH and 1 mL of CH2Cl2 and NH3 gas is bubbled through the solution for 5 minutes. The resulting mixture is heated at reflux for 4 hours. After this time, the solution is concentrated in vacuo to give the title compound (0.17 g, 0.36 mmol) as a solid.

reactant | 5-(2-methylsulfinyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2SC(=CC2)C2=NC(=NC=C2)S(=O)C)=O)C=CC1 | C21H19N5O4S3
reactant | 5-(2-methylsulfonyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | 0.37 mmol, 0.19 g | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2SC(=CC2)C2=NC(=NC=C2)S(=O)(=O)C)=O)C=CC1 | C21H19N5O5S3
solvent | MeOH | 10 mL | CO | CH4O
product | 5-(2-Methoxy-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | 0.36 mmol, 0.17 g | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2SC(=CC2)C2=NC(=NC=C2)OC)=O)C=CC1 | C21H19N5O4S2
